US08383635B2
Ethyl 4-({3-[3-({[(1,1-dimethylethyl)oxy]carbonyl}amino)propyl]phenyl}amino)-6-methyl-2-(methylthio)-5-pyrimidinecarboxylate
To a solution of 1,1-dimethylethyl[3-(3-aminophenyl)propyl]carbamate (390 mg, 1.558 mmol) in DMF (5 mL) were added ethyl 4-chloro-6-methyl-2-(methylthio)-5-pyrimidinecarboxylate (307 mg, 1.246 mmol) and DIEA (0.298 mL, 1.714 mmol), and the reaction mixture was stirred at 75° C. overnight. The reaction was then concentrated and the residue was purified using column chromatography (silica gel, 0% to 50% EtOAc gradient in hexane) to afford the product (210 mg, 29% yield).

reactant | 1,1-dimethylethyl[3-(3-aminophenyl)propyl]carbamate | 1.558 mmol, 390 mg | CC(C)(C)N(C([O-])=O)CCCC1=CC(=CC=C1)N
reactant | ethyl 4-chloro-6-methyl-2-(methylthio)-5-pyrimidinecarboxylate | 1.246 mmol, 307 mg | ClC1=NC(=NC(=C1C(=O)OCC)C)SC | C9H11ClN2O2S
reactant | DIEA | 1.714 mmol, 0.298 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Ethyl 4-({3-[3-({[(1,1-dimethylethyl)oxy]carbonyl}amino)propyl]phenyl}amino)-6-methyl-2-(methylthio)-5-pyrimidinecarboxylate | 210 mg, 29% yield | CC(C)(C)OC(=O)NCCCC=1C=C(C=CC1)NC1=NC(=NC(=C1C(=O)OCC)C)SC | C23H32N4O4S
